US08426406B2
6-(4-Dimethylaminocarbonyloxy-2-methoxyphenyl)-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 6-3)
5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 5-1, 25 mg, 0.058 mmol) was dissolved in pyridine (1 mL), N,N-dimethylcarbamoyl chloride (6.9 μL, 0.075 mmol) was added thereto, and then the mixture was stirred at 100° C. for 3 hours. N,N-Dimethylcarbamoyl chloride (3.0 μL, 0.033 mmol) was added to the reaction mixture and the mixture was stirred at 100° C. for 1 hour. The reaction mixture was diluted with ethyl acetate (20 mL). The mixture was washed with 0.2 N aqueous HCl solution (75 mL), water (50 mL), and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (1st time: hexane-ethyl acetate, 2nd time: toluene-ethyl acetate) to give the titled compound (8.5 mg) as a colorless amorphous product. (Yield 29%)

reactant | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)O)OC)(C)C)C)C1)C | C27H28FNO3
reactant | N,N-dimethylcarbamoyl chloride | 0.075 mmol, 6.9 μL | CN(C(=O)Cl)C | C3H6ClNO
reactant | N,N-Dimethylcarbamoyl chloride | 0.033 mmol, 3.0 μL | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 6-(4-Dimethylaminocarbonyloxy-2-methoxyphenyl)-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 8.5 mg, Yield 29% | CN(C(=O)OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC1=C(C=CC(=C1)F)C)OC)C | C30H33FN2O4
